US04677100
(A) Benzhydryl 7-[(Z)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)-2-(2-tritylaminothiazol-4-yl) acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide
10 g (10.3 mmol) of benzhydryl 7-[(Z)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem- 4-carboxylate was dissolved in 200 ml of methylene chloride, and 1.78 g (10.3 mmol) of m-chloroperbenzoic acid was added under cooling with ice in 10 minutes. The mixture was further stirred for 20 minutes. To the reaction solution, 40 ml of a 10% sodium thiosulfate aqueous solution was added for extraction. Then, the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a powder of the above-identified compound.

reactant | benzhydryl 7-[(Z)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem- 4-carboxylate | 10.3 mmol, 10 g | C(C)(C)(C)OC(=O)C(C)(O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C53H50ClN5O7S2
reactant | m-chloroperbenzoic acid | 10.3 mmol, 1.78 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Benzhydryl 7-[(Z)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)-2-(2-tritylaminothiazol-4-yl) acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide | C(C)(C)(C)OC(=O)C(C)(O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C53H50ClN5O8S2
